US08193199B2
1-(2-Chloro-7-fluoroquinolin-3-yl)ethanol
To a suspension of 2-chloro-7-fluoroquinoline-3-carbaldehyde (44.7 g, 213 mmol) in THF (600 mL) was treated with MeMgBr (78 mL, 1.1 eq) dropwise at −20° C. After overnight, the reaction was quenched with NH4Cl solution and extracted with Ether (300 mL and 100 mL). The organics were washed with water, brine, dried over Na2SO4, concentrated and recrystallized from EtOAc (100 mL) and hexane (1 L). A pale yellow solid was obtained (41 g, 85%). 1H NMR (400 MHz, CDCl3) δ ppm 8.41 (s, 1H), 7.87 (dd, J=8.0, 4.0 Hz, 1H), 7.67 (dd, J=8.0, 2.0 Hz, 1H), 7.38 (td, J=8.0, 2.0 Hz, 1H), 5.38 (q, J=4.0 Hz, 1H), 1.63 (d, J=4.0 Hz, 3H). Mass Spectrum (ESI) m/e=226 (M+1).

reactant | 2-chloro-7-fluoroquinoline-3-carbaldehyde | 213 mmol, 44.7 g | ClC1=NC2=CC(=CC=C2C=C1C=O)F | C10H5ClFNO
reactant | MeMgBr | 78 mL, 1.1 eq | C[Mg+].[Br-]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 1-(2-Chloro-7-fluoroquinolin-3-yl)ethanol | ClC1=NC2=CC(=CC=C2C=C1C(C)O)F | C11H9ClFNO
